US07449460B2
Following the procedure of Example 11, a mixture of 220 mg (0.5 mmol) of 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile and 290mg (1.72 mmol) of 4-piperidinopiperidine in 1.5 mL of 1-methyl 2-pyrrolidinone is heated at 105° C. for 17 hours to yield the crude product. Purification by silica gel chromatography (gradient 94:6 methylene chloride/methanol to 89:10:1 methylene chloride/methanol/ammonium hydroxide) gives 193 mg of 7-(1,4′-bipiperidin-1′-yl)-4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-6-methoxyquinoline-3-carbonitrile as a beige solid, mp 221-223° C.

reactant | 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile | 0.5 mmol, 220 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C21H15ClFN5OS
reactant | 4-piperidinopiperidine | 1.72 mmol, 290mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | 1-methyl 2-pyrrolidinone | 1.5 mL | CN1C(CCC1)=O | C5H9NO
product | 7-(1,4′-bipiperidin-1′-yl)-4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-6-methoxyquinoline-3-carbonitrile | 193 mg | N1(CCCCC1)C1CCN(CC1)C1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC(=C(C=C1)SC=1N(C=CN1)C)Cl)OC | C31H34ClN7OS
